US07531532B2
Morpholine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
To a solution of morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (50 mg) in N,N-dimethylformamide (1.0 ml) was added phenylacetyl isothiocyanate (42 mg), followed by stirring at room temperature for 22 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1, ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated to give a solid, which was suspended in diethyl ether. The solid was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (22 mg, 0.043 mmol, 29%) as colorless solid.

reactant | morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 50 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)F | C16H17FN4O3
reactant | phenylacetyl isothiocyanate | 42 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Morpholine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 0.043 mmol, 22 mg, 29% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C25H24FN5O4S
